US07935824B2
(±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-isopropyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride
(±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride (30 mg) was suspended in dichloromethane (20 ml), and triethylamine (260 μl) was added to stir the mixture at room temperature for 15 minutes. Acetic acid (179 μl) and acetone (920 μl) were added to the reaction mixture, and the resultant mixture was stirred at room temperature for 2 minutes. Sodium triacetoxyborohydride (796 mg) was added to the reaction mixture to stir them at room temperature for 5 hours. A 1N aqueous solution (10 ml) of sodium hydroxide was added to the reaction mixture to conduct liquid separation. The resultant organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=100:3) to obtain a colorless foamy substance. This product was dissolved in dichloromethane, and a 1N ethanol solution (1 ml) of hydrochloric acid was added. The solution was concentrated under reduced pressure to obtain the title compound (205 mg) as a pale yellow foamy substance.

reactant | (±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | 30 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CCC1)NC(=O)C=1SC=2CNCCC2N1
reactant | Sodium triacetoxyborohydride | 796 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethanol | 1N, 1 ml | C(C)O | C2H6O
solvent | acetone | 920 μl | CC(=O)C | C3H6O
solvent | Acetic acid | 179 μl | C(C)(=O)O | C2H4O2
solvent | triethylamine | 260 μl | C(C)N(CC)CC | C6H15N
product | (±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-isopropyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | 205 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CCC1)NC(=O)C=1SC=2CN(CCC2N1)C(C)C | InChI=1S/C24H28ClN5O2S.ClH/c1-13(2)30-9-8-19-21(12-30)33-24(29-19)23(32)28-18-5-3-4-17(18)27-22(31)20-11-14-10-15(25)6-7-16(14)26-20;/h6-7,10-11,13,17-18,26H,3-5,8-9,12H2,1-2H3,(H,27,31)(H,28,32);1H/t17-,18-;/m1./s1
